US04472433
A solution of Phosphorus tribromide (1.72 ml) in methylene chloride (15 ml) was added dropwise to a solution of 2-nitro-3-(2-chlorophenoxy)benzyl alcohol (9.6 g) in methylene chloride (80 ml) at -10° C., and the mixture was stirred at 0° C. for an hour. To the reaction mixture was added water (50 ml), and the methylene chloride layer was separated, washed with aqueous sodium bicarbonate and saline, dried and then evaporated in vacuo. The oily residue was subjected to column chromatography on silica gel (110 g) and eluted with a mixture of n-hexane and benzene (2:1). The eluate was evaporated in vacuo, and the residue was recrystallized from a mixture of benzene and n-hexane to give 2-nitro-3-(2-chlorophenoxy)benzyl bromide (2.7 g). mp 68°-70° C.

reactant | Phosphorus tribromide | 1.72 ml | P(Br)(Br)Br | Br3P
reactant | 2-nitro-3-(2-chlorophenoxy)benzyl alcohol | 9.6 g | [N+](=O)([O-])C1=C(CO)C=CC=C1OC1=C(C=CC=C1)Cl | C13H10ClNO4
reactant | water | 50 ml | O | H2O
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 80 ml | C(Cl)Cl | CH2Cl2
product | 2-nitro-3-(2-chlorophenoxy)benzyl bromide | 2.7 g | [N+](=O)([O-])C1=C(CBr)C=CC=C1OC1=C(C=CC=C1)Cl | C13H9BrClNO3
